US07550607B2
Preparation of 2-allyloxy-3-hydroxypent-4-enoic acid ethyl ester
Under an atmosphere of argon, n-BuLi (3 mmol, 1.2 ml, 2.5 M in hexane) was added dropwise to a solution of diisopropylamine (281 mg, 2.78 mmol) in dry THF (20 ml) at −78° C. After stirring for 20-30 min, a solution of allyloxy-acetic acid ethyl ester (200 mg, 1.38 mmol) in THF (4 ml) was added and the mixture was stirred at −78° C. for 10 min. Acrolein (79 mg, 1.38 mmol) was added into the reaction mixture and stirring was maintained until all starting materials were consumed. The reaction was quenched by addition of EtOH (2 ml) and warmed to room temperature. The solution was diluted with EtOAc (60 ml), washed with H2O (20 ml×2), dried over Na2SO4 and concentrated in vacuo. The crude product was purified by flash chromatography with 20% EtOAc-hexane.

reactant | n-BuLi | 3 mmol, 2.5 M, 1.2 ml | [Li]CCCC
reactant | diisopropylamine | 2.78 mmol, 281 mg | C(C)(C)NC(C)C | C6H15N
reactant | allyloxy-acetic acid ethyl ester | 1.38 mmol, 200 mg | C(C)OC(COCC=C)=O | C7H12O3
reactant | Acrolein | 1.38 mmol, 79 mg | C(=O)C=C | C3H4O
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
product | 2-allyloxy-3-hydroxypent-4-enoic acid ethyl ester | C(C)OC(C(C(C=C)O)OCC=C)=O | C10H16O4
